US03954864
321.5 parts of Auramine O are put in suspension, whilst being stirred, in 680 parts of acetone and 140 parts of water. 340 parts by weight of 30% soda are added to this suspension. The temperature rises from 20°/22°C. to 35°C. A transition to solution is then observed, following by precipitation of the Auramine base in crystalline form. The mixture is allowed to return to ambient temperature, is cooled to 0°-5°C. for 4 hours, filtered and washed twice with 400 parts by weight of 50% acetonewater mixture. The filtered material is then dried at 70°-80°C. for 24 hours and 212 parts of Auramine O base with a melting point of 135°-136°C. are obtained. (The theoretical melting point is 136°C.)

reactant | Auramine O | CN(C)C1=CC=C(C=C1)C(=N)C2=CC=C(C=C2)N(C)C.Cl
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | Auramine O base | CN(C)C1=CC=C(C=C1)C(=N)C2=CC=C(C=C2)N(C)C | C17H21N3
